US04794108
In 60 ml of tetrahydrofuran is dissolved 5.95 g (17 mmole) of trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-methoxycarbonyl-2-azetidinone obtained in the same manner as the method described in The Journal of Organic Chemistry, 48 (1983), 3556-3559, and a solution of 965 mg (25.5 mmole) of sodium borohydride in 15 ml of water is added dropwise to the solution under cooling at -15° C. with stirring over the period of 10 minutes. After the addition is completed, the reaction solution is stirred at -5° to -10° C. for 40 minutes, and acetic acid is added to decompose excess sodium borohydride. 100 ml of ethyl acetate and 30 ml of aqueous sodium chloride solution are added, and the mixture is shaken, followed by separation of the ethyl acetate layer. The aqueous layer is extracted again with ethyl acetae, and the ethyl acetate layer are combined, washed with saturated aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution successively, and dried over anhydrous megnesium sulfate. The solvent is distilled off under reduced pressure, and the residue i purified by column chromatography (silica gel, 250 g; n-hexabe-ethyl acetate =3:2, then 1:1). The fractions containing the objective compound are collected, and the solvent is distilled off under reduced pressure. Ether and petroleum ether (1:2) are added to the residue, and the resulting crystals are recovered by filtration to give 1.33 g (24.3%) of trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone.

reactant | trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-methoxycarbonyl-2-azetidinone | 17 mmole, 5.95 g | C(C1=CC=CC=C1)ON1C([C@H]([C@@H]1C(=O)OC)NC(=O)OC(C)(C)C)=O | C17H22N2O6
reactant | sodium borohydride | 25.5 mmole, 965 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | trans-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone | 1.33 g, 24.3% | C(C1=CC=CC=C1)ON1C([C@H]([C@@H]1CO)NC(=O)OC(C)(C)C)=O | C16H22N2O5
